US05514680
6-Bromo-7-chloro-5-nitroquinoxaline-2(1H)-one
To a stirred suspension of 6-bromo-7-chloro-3,4-dihydroquinoxaline-2(1H)-one (0.06 g, 0.23 mmol) in CF3COOH (0.5 mL) was added fuming HNO3 (0.02 mL, 0.46 mmol) and the resulting reddish yellow suspension was stirred at r.t. overnight. The cream colored suspension so obtained was poured into ice (2.5 mL) and the precipitated solid was filtered, washed with water (1.0 mL) and dried under vacuum to afford 0.049 g (70%) of title compound as a cream colored powder which contained ~10% impurity (1H NMR integration); 1H NMR (DMSO-d6): δ7.577 (s, 1H), 8.251 (s, 1H), 12.879 (s, 1H). The crude product was used for the next reaction.

reactant | 6-bromo-7-chloro-3,4-dihydroquinoxaline-2(1H)-one | 0.23 mmol, 0.06 g | BrC=1C=C2NCC(NC2=CC1Cl)=O | C8H6BrClN2O
reactant | HNO3 | 0.46 mmol, 0.02 mL | [N+](=O)(O)[O-] | HNO3
solvent | CF3COOH | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-Bromo-7-chloro-5-nitroquinoxaline-2(1H)-one | 0.049 g, 70% | BrC=1C(=C2N=CC(NC2=CC1Cl)=O)[N+](=O)[O-] | C8H3BrClN3O3
